US08957078B2
To a mixture of 3,5-diamino-N-(2-methyl-3-phenyl-imidazol-4-yl)-1H-pyrazole-4-carboxamide (116 mg, 0.3902 mmol), 3-(diisopropylamino)-2-fluoro-prop-2-enal (67.59 mg, 0.3902 mmol) in isopropanol (0.58 mL) and water (0.58 mL) was added acetic acid (0.221 mL, 3.904 mmol) and the solution was heated to 88° C. for 2.5 h. The reaction mixture was partitioned between EtOAc and saturated sodium carbonate solution. Combined organic extract was dried (MgSO4), and concentrated in vacuo to give as a redish oil that was purified by fractionlynx. Clean fractions were freeze-dried to give 2-amino-6-fluoro-N-(2-methyl-1-phenyl-1H-imidazol-5-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide as a yellow solid. (16.4 mg, 8.5%). MS (ES+) 352.2.

reactant | 3,5-diamino-N-(2-methyl-3-phenyl-imidazol-4-yl)-1H-pyrazole-4-carboxamide | 0.3902 mmol, 116 mg | NC1=NNC(=C1C(=O)NC=1N(C(=NC1)C)C1=CC=CC=C1)N | C14H15N7O
reactant | 3-(diisopropylamino)-2-fluoro-prop-2-enal | 0.3902 mmol, 67.59 mg | C(C)(C)N(C=C(C=O)F)C(C)C | C9H16FNO
reactant | acetic acid | 3.904 mmol, 0.221 mL | C(C)(=O)O | C2H4O2
solvent | isopropanol | 0.58 mL | C(C)(C)O | C3H8O
solvent | water | 0.58 mL | O | H2O
product | 2-amino-6-fluoro-N-(2-methyl-1-phenyl-1H-imidazol-5-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=CN=C(N1C1=CC=CC=C1)C | C17H14FN7O
